US07217706B2
A mixture of N-benzyl-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (1.0 g) and 10% palladium on activated carbon (50% wet, 300 mg) in methanol (10 ml) was stirred at room temperature in the presence of hydrogen at an atmospheric pressure for 5.5 hours. After filtration, the filtrate was evaporated in vacuo to give 3-methoxy-(6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (720 mg).

reactant | N-benzyl-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 1.0 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC | C19H23NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 300 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 3-methoxy-(6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 720 mg | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
